US09085555B2
B. (3-Chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester
To a solution of (3-chloro-2-fluoro-5-vinyl-benzyl)-carbamic acid tert-butyl ester (2.7 g, 9.5 mmol) in acetone (20 mL) was added N-methylmorpholine-N-oxide monohydrate (1.5 g, 11 mmol) and a solution of 4% aq. osmiumtetraoxide (3.7 mL, 0.5 mmol). The reaction was stirred for 1 h, saturated aqueous Na2S2O3-solution was added and stirring was continued for one hour. After extraction with EtOAc and removal of the solvent in vacuo, the residue was dissolved in acetone/water (3:1, 40 mL) and NalO4 (4.0 g, 19 mmol) was added. After stirring for 2 h at ambient temperature, the reaction mixture was filtered, washed with EtOAc, extracted with EtOAc, dried (Na2SO4) and the solvent was removed in vacuo to give the title compound which was used without further purification. tR (HPLC conditions c): 5.22 min.

reactant | (3-chloro-2-fluoro-5-vinyl-benzyl)-carbamic acid tert-butyl ester | 9.5 mmol, 2.7 g | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=C)Cl)F)=O | C14H17ClFNO2
reactant | N-methylmorpholine-N-oxide monohydrate | 11 mmol, 1.5 g | O.C[N+]1(CCOCC1)[O-]
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | acetone | 20 mL | CC(=O)C | C3H6O
catalyst | osmiumtetraoxide | 0.5 mmol, 3.7 mL | [Os](=O)(=O)(=O)=O
product | (3-Chloro-2-fluoro-5-formyl-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C=O)Cl)F)=O | C13H15ClFNO3
